US08030435B2
Into a suspension of 30.1 grams (0.2 moles) of 2-carboxybenzaldehyde in 240 mL of toluene is added 28.4 grams (0.2 moles) of phenylphosphinic acid. The resultant mixture is heated to reflux and 3.8 mL of water is collected by azeotropic distillation using a Dean-Stark receiver. Upon cooling the reaction mixture, the precipitated white solid is collected by filtration and dried. The crude solid is recrystallized from 240 mL of methanol to give 31.8 grams (58% yield) of (3-oxo-1,3-dihydro-isobenzofuran-1-yl)-phenyl-phosphinic acid as white crystals, mp 230-233° C.

reactant | 2-carboxybenzaldehyde | 0.2 moles, 30.1 grams | C(=O)(O)C1=C(C=O)C=CC=C1 | C8H6O3
reactant | phenylphosphinic acid | 0.2 moles, 28.4 grams | C1(=CC=CC=C1)P(O)=O | C6H7O2P
solvent | toluene | 240 mL | C1(=CC=CC=C1)C | C7H8
product | (3-oxo-1,3-dihydro-isobenzofuran-1-yl)-phenyl-phosphinic acid | 31.8 grams, 58% yield | O=C1OC(C2=CC=CC=C12)P(O)(=O)C1=CC=CC=C1 | C14H11O4P
